US05998433
b) Synthesis of N,N-dimethyl-[5-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.270 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.270 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1(CC1)C1=CC=CC=C1)=O | C26H28N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1(CC1)C1=CC=CC=C1)=O | InChI=1S/C26H28N2O2.ClH/c1-27(2)18-23-16-20-17-28(15-12-24(20)30-23)25(29)19-8-10-22(11-9-19)26(13-14-26)21-6-4-3-5-7-21;/h3-11,16H,12-15,17-18H2,1-2H3;1H
